* SFH154 ELECTRICAL MODEL (TO-3P N-Ch DMOS)
* -------------------------------------------------------
* NOTICE : This SPICE data is verified for -55 ~ 100C
* -------------------------------------------------------
.SUBCKT  SFH154  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={2.0*{-0.0014*TEMP+1.035}} 
+  KP={20*{-0.00002*TEMP+1.0005}}
+  THETA=0.040  VMAX=9.4E4  LEVEL=3 )
Cgs     1    3    2400p
Rd     20    4    15m TC=0.0027
Dds     3    4    DDS
.MODEL     DDS    D(BV={150*{0.00053*TEMP+0.98675}}   
+ M=0.6  CJO=424p   VJ=0.8*{-0.0022*TEMP+0.855})
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1E-9   N=1  EG=0.85  TT=203n)
Ra      4    2    15m TC=0.0027
Rs      3    5     8m TC=0.0013
Ls      5    30   5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    3250p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.68   CJO=3250p   VJ=0.88)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS SFH154
